US04386031
(c) 9-[4-Chloro-N-(4-methoxyphenyl)-benzamido]pelargonic acid
As described in example 1(b), the reaction is carried out with 2.8 g (6.5 mmol) of 9-[4-chloro-N-(4-methoxyphenyl)-benzamido]-pelargonic acid methyl ester, 0.3 g (7.8 mmol) of sodium hydroxide and 50 cc. of methanol. Reaction time: 42 hours, reaction temperature: 25° C.

reactant | 9-[4-chloro-N-(4-methoxyphenyl)-benzamido]-pelargonic acid methyl ester | 6.5 mmol, 2.8 g | COC(CCCCCCCCN(C(C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)OC)=O | C24H30ClNO4
reactant | sodium hydroxide | 7.8 mmol, 0.3 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 9-[4-Chloro-N-(4-methoxyphenyl)-benzamido]pelargonic acid | ClC1=CC=C(C(=O)N(C2=CC=C(C=C2)OC)CCCCCCCCC(=O)O)C=C1 | C23H28ClNO4
